US05866589
1-(Pyrrole-2-carbonyl)-4-[N-ethyl-N-(3-ethylamino-2-pyridinyl) amino]methylpiperidine (V)
Following the general procedure of EXAMPLE 149 and making non-critical variations, but using pyrrole-2-carboxylic acid (823 mg, 7.40 mmol) and 4-[N-ethyl-N-(3-ethylamino-2-pyridinyl)aminomethyl]piperidine (970 mg, 3.70 mmol), a crude product is obtained. Chromatography [with 40-100% ethyl acetate/hexane], followed by crystallization from ether/hexane gives the title compound, mp=109°-110°.

reactant | pyrrole-2-carboxylic acid | 7.40 mmol, 823 mg | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | 4-[N-ethyl-N-(3-ethylamino-2-pyridinyl)aminomethyl]piperidine | 3.70 mmol, 970 mg | C(C)N(C1=NC=CC=C1NCC)CC1CCNCC1 | C15H26N4
product | 1-(Pyrrole-2-carbonyl)-4-[N-ethyl-N-(3-ethylamino-2-pyridinyl) amino]methylpiperidine | N1C(=CC=C1)C(=O)N1CCC(CC1)CN(C1=NC=CC=C1NCC)CC | C20H29N5O
